### PR TITLE
Backport cleanup and improvements from rt

### PR DESCRIPTION
**Pull request by corlewis**
None of this is particularly exciting but backporting these makes the rt branch and master more consistent, which should help in future merges.

### CODE REVIEW

File: proof/invariant-abstract/X64/ArchDetSchedSchedule_AI.thy [hunk 1]
```diff
@@ -423,8 +422,8 @@ lemmas DetSchedSchedule_AI_handle_hypervisor_fault_assms = Arch_assms (* extract
 end
 
 global_interpretation DetSchedSchedule_AI_handle_hypervisor_fault?: DetSchedSchedule_AI_handle_hypervisor_fault
-  proof goal_cases
+proof goal_cases
   case 1 show ?case by (unfold_locales; (fact X64.DetSchedSchedule_AI_handle_hypervisor_fault_assms)?)
-  qed
+qed
```
Comment (Xaphiosis) [inline proof/invariant-abstract/X64/ArchDetSchedSchedule_AI.thy:427]: very nice that you're cross-pollinating these to arches that RT isn't touching directly

File: proof/refine/Invariants_H.thy [hunk 2]
```diff
@@ -1530,17 +1530,19 @@ lemmas tcb_cte_cases_neqs_n =
     distinct_rev[THEN iffD2, OF tcb_cte_cases_distinct_n, simplified],
     simplified conj_ac, simplified] (* remove duplicates from 0/1 simplification *)
 
-lemma tcb_cte_cases_simps[simp]:
-  "tcb_cte_cases 0  = Some (tcbCTable, tcbCTable_update)"
```
Comment (Xaphiosis) [inline proof/refine/Invariants_H.thy:1534]: potential issue: in the most recent cleanup of warnings from Refine, I removed a case of `raw_tcb_cte_cases_simps` with the comment `0 case already covered by tcb_cte_cases_simps`.
If you are changing `tcb_cte_cases_simps` to no longer have a raw 0 case, then you'd potentially have to update `raw_tcb_cte_cases_simps` on all arches and also remove that comment

**Comment by Xaphiosis** [comment]
Wonderful to see the cleanup sync. I won't approve yet, as I suspect there is an issue at least with the raw tcb cte cases I mentioned above.

File: proof/invariant-abstract/X64/ArchDetSchedSchedule_AI.thy (hunk 1 above)
Comment (corlewis) [reply proof/invariant-abstract/X64/ArchDetSchedSchedule_AI.thy:427]: Thanks, I've been making an effort to at the very least not make the consistency between architectures worse while focusing on the consistency between branches.

File: proof/refine/Invariants_H.thy (hunk 2 above)
Comment (corlewis) [reply proof/refine/Invariants_H.thy:1534]: Very good point. I do introduce `tcb_cte_cases_simps'` just after this which should be exactly the same as the old `tcb_cte_cases_simps`, but I'll double check that this does actually work out.

Comment (corlewis) [reply proof/refine/Invariants_H.thy:1534]: I can confirm that `tcb_cte_cases_simps'` does still have the raw 0 case. I've updated the comment in a new to-be-squashed commit.

File: proof/refine/AARCH64/ArchInvsLemmas_H.thy.orig [hunk 3]
```diff
@@ -0,0 +1,586 @@
+(*
+ * Copyright 2023, Proofcraft Pty Ltd
+ * Copyright 2020, Data61, CSIRO (ABN 41 687 119 230)
+ *
+ * SPDX-License-Identifier: GPL-2.0-only
+ *)
+
+theory ArchInvsLemmas_H
```
Comment (lsf37) [inline proof/refine/AARCH64/ArchInvsLemmas_H.thy.orig]: ArchInvsLemmas_H.thy.orig looks like an accidental `git add`

File: proof/refine/ARM/ArchInvsLemmas_H.thy.orig [hunk 4]
```diff
@@ -0,0 +1,510 @@
+(*
+ * Copyright 2023, Proofcraft Pty Ltd
+ * Copyright 2020, Data61, CSIRO (ABN 41 687 119 230)
+ *
+ * SPDX-License-Identifier: GPL-2.0-only
+ *)
+
+theory ArchInvsLemmas_H
```
Comment (lsf37) [inline proof/refine/ARM/ArchInvsLemmas_H.thy.orig]: also a .orig file here

File: proof/refine/RISCV64/ArchInvsLemmas_H.thy.orig [hunk 5]
```diff
@@ -0,0 +1,502 @@
+(*
+ * Copyright 2023, Proofcraft Pty Ltd
+ * Copyright 2020, Data61, CSIRO (ABN 41 687 119 230)
+ *
+ * SPDX-License-Identifier: GPL-2.0-only
+ *)
+
+theory ArchInvsLemmas_H
```
Comment (lsf37) [inline proof/refine/RISCV64/ArchInvsLemmas_H.thy.orig]: and one more :-)

File: proof/refine/X64/ArchInvsLemmas_H.thy.orig [hunk 6]
```diff
@@ -0,0 +1,559 @@
+(*
+ * Copyright 2023, Proofcraft Pty Ltd
+ * Copyright 2020, Data61, CSIRO (ABN 41 687 119 230)
+ *
+ * SPDX-License-Identifier: GPL-2.0-only
+ *)
+
+theory ArchInvsLemmas_H
```
Comment (lsf37) [inline proof/refine/X64/ArchInvsLemmas_H.thy.orig]: final one, I suspect.

File: proof/refine/Tcb_R.thy [hunk 7]
```diff
@@ -1750,7 +1750,7 @@ lemma invokeTCB_corres:
   apply (fastforce dest: tcb_ko_at_valid_objs_valid_tcb' simp: valid_tcb'_def)
   done
 
-end (* Tcb_R *)
+end (* Tcb_R_2 *)
```
Comment (lsf37) [inline proof/refine/Tcb_R.thy:1753]: nice catch!

**Review by lsf37 — APPROVED** [review]
Thank you for doing this. Maybe we can have nice things sometimes after all :-)

Since Raf's feedback is addressed, I don't see any further issues. Ready to merge from my side.

**Review by michaelmcinerney — APPROVED** [review]

File: proof/refine/AARCH64/ArchInvsLemmas_H.thy.orig (hunk 3 above)
Comment (corlewis) [reply proof/refine/AARCH64/ArchInvsLemmas_H.thy.orig]: Thanks for spotting, fixed.

**Review by Xaphiosis — APPROVED** [review]
Would people be in favour of a `*.rej` and `*.orig` lint check of some kind? I completely missed it this time around.

**Comment by corlewis** [comment]
> Would people be in favour of a `*.rej` and `*.orig` lint check of some kind? I completely missed it this time around.

I'd definitely be in favour, good idea! And you didn't miss it, I accidentally added it in my follow-up commit after your suggestions.

**Comment by lsf37** [comment]
Yes, I'll put that on the list for when I'm back. (Or feel free to add one, it's basically `find` succeeding or failing).

I'm mainly not sure exactly where to put it. Could be in the git check globally for all repos, or it could be a separate run just here in l4v.

**Comment by lsf37** [comment]
If it's in the git check job, then it would be a failure on a required job, though, so not so easy to ignore.

**Comment by corlewis** [comment]
We were talking offline, any reason not to just add them to the `.gitignore`? I can't think of any reason that we'd ever want them to be visible to git.

**Comment by lsf37** [comment]
> We were talking offline, any reason not to just add them to the `.gitignore`? I can't think of any reason that we'd ever want them to be visible to git.

Yes, let's do that. Much simpler and also preventative instead of just a check.
